US08633173B2
196 d) To a stirred mixture of N-(2-hydroxymethyl-phenyl)-N-methyl-methanesulfonamide (0.90 g, 4.2 mmol) and carbon tetrabromide (2.40 g, 7.24 mmol) in dry tetrahydrofuran (50 mL) was added triphenylphosphine (1.90 g, 7.23 mmol). The mixture was stirred at room temperature for 18 hours. The volatiles were evaporated under reduced pressure. The residue was triturated with ethyl acetate (30 mL) then filtered and evaporated under reduced pressure. The residue was purified via chromatography (silica gel column 40 g 5%→100% ethyl acetate:hexane). N-(2-Bromomethyl-phenyl)-N-methyl-methanesulfonamide was isolated as pale yellow solid (0.86 g, 74%), 1H NMR (400 MHz, CDCl3, δ, ppm): 7.57-7.52 (m, 1H), 7.41-7.34 (m, 2H), 7.30-7.25 (m, 1H), 5.29-4.30 (br m, 2H), 3.34 (s, 3H), 2.98 (s, 3H).

reactant | N-(2-hydroxymethyl-phenyl)-N-methyl-methanesulfonamide | 4.2 mmol, 0.90 g | OCC1=C(C=CC=C1)N(S(=O)(=O)C)C | C9H13NO3S
reactant | carbon tetrabromide | 7.24 mmol, 2.40 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 7.23 mmol, 1.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-(2-Bromomethyl-phenyl)-N-methyl-methanesulfonamide | BrCC1=C(C=CC=C1)N(S(=O)(=O)C)C | C9H12BrNO2S
